US07405210B2
Preparation 73: 4-(2-Nitrobenzenesulfonylamino)piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-aminopiperidine-1-carboxylic acid tert-butyl ester (400 mg, 200 mmol) in anhydrous dichloromethane (14 mL) under argon was added triethylamine (340 μL, 2.4 mmol) and the solution cooled in an ice bath. 2-Nitrophenylsulfonyl chloride (443 mg, 2.0 mmol) was added and the reaction allowed to stir at rt for 16 h. The crude solution was washed with water (2×30 mL) before removing the solvent in vacuo. The crude material was purified by chromatography using ethyl acetate/petroleum ether (30–60%) as the eluent to give the title compound as an off-white powder. δH (d6 DMSO): 8.43 (2H, m), 8.17 (1H, s), 8.09 (2H, m), 3.80–3.69 (2H, m), 3.31–3.23 (1H, m), 2.86–2.69 (2H, m), 1.63–1.51 (2H, m), 1.39 (9H, s), 1.29–1.17 (2H, m).

reactant | 4-aminopiperidine-1-carboxylic acid tert-butyl ester | 200 mmol, 400 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | triethylamine | 2.4 mmol, 340 μL | C(C)N(CC)CC | C6H15N
reactant | 2-Nitrophenylsulfonyl chloride | 2.0 mmol, 443 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | dichloromethane | 14 mL | ClCCl | CH2Cl2
product | 4-(2-Nitrobenzenesulfonylamino)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C16H23N3O6S
